### PR TITLE
feat: surreal Hahn series from ordinal-indexed sequences

### PR DESCRIPTION
**Pull request by vihdzp**
We define an auxiliary type `TermSeq` for an ordinal-indexed sequence of terms `r * ω^ i` with non-zero coefficients and decreasing exponents. These provide an alternate, often more convenient representation for surreal Hahn series. We provide basic API, and build the equiv between both types.

- [ ] depends on: #451

### CODE REVIEW

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean [hunk 1]
```diff
@@ -526,4 +536,194 @@ theorem term_eq_zero {x : SurrealHahnSeries} {i : Ordinal} : x.term i = 0 ↔ x.
...
+    (he : ∀ i (hs : i < s.length) (ht : i < t.length), s.exp ⟨i, hs⟩ = t.exp ⟨i, ht⟩)
+    (hc : ∀ i (hs : i < s.length) (ht : i < t.length), s.coeff ⟨i, hs⟩ = t.coeff ⟨i, ht⟩) :
+    s = t := by
+  cases s
+  cases t
+  cases hl
+  simp_rw [mk.injEq, heq_eq_eq, true_and]
+  constructor <;> ext
+  · exact he ..
+  · exact hc ..
```
Comment (plp127) [inline CombinatorialGames/Surreal/HahnSeries/Basic.lean]: Does this work?
```suggestion
  cases funext fun t : Iio _ => he t.1 t.2
  cases funext fun t : Iio _ => hc t.1 t.2
  rfl
```

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean [hunk 2]
```diff
@@ -526,4 +536,194 @@ theorem term_eq_zero {x : SurrealHahnSeries} {i : Ordinal} : x.term i = 0 ↔ x.
...
+    ext
+    exact s.exp_strictAnti.lt_iff_gt
+  ) H)
+
+instance : Coe TermSeq SurrealHahnSeries where
+  coe := toSurrealHahnSeries
+
+/-- Build a `TermSeq` from a `SurrealHahnSeries`. -/
+@[simps]
+def ofSurrealHahnSeries (x : SurrealHahnSeries) : TermSeq where
```
Comment (plp127) [inline CombinatorialGames/Surreal/HahnSeries/Basic.lean:625]: Should this be `@[expose]`?

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean [hunk 3]
```diff
@@ -526,4 +536,194 @@ theorem term_eq_zero {x : SurrealHahnSeries} {i : Ordinal} : x.term i = 0 ↔ x.
...
+@[aesop simp]
+theorem term_coe (s : TermSeq) (i) :
+    term s i = if h : i < s.length then s.coeff ⟨i, h⟩ * ω^ s.exp ⟨i, h⟩ else 0 := by
+  split_ifs with h
+  · exact term_coe_of_lt h
+  · exact term_coe_of_le (le_of_not_gt h)
+
+/-- `TermSeq` and `SurrealHahnSeries` are alternate representations for the same structure. -/
+@[simps!]
+def surrealHahnSeriesEquiv : TermSeq ≃ SurrealHahnSeries where
```
Comment (plp127) [inline CombinatorialGames/Surreal/HahnSeries/Basic.lean:722]: This should be `@[expose]`.

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/HahnSeries/Basic.lean]: Doesn't seem to.

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean (hunk 2 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/HahnSeries/Basic.lean:625]: It has to be, actually, or `simps` complains.

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean (hunk 1 above)
Comment (plp127) [reply CombinatorialGames/Surreal/HahnSeries/Basic.lean]: Ah lemme try again
```suggestion
  cases funext fun t : Iio _ => he t.1 t.2 t.2
  cases funext fun t : Iio _ => hc t.1 t.2 t.2
  rfl
```

Comment (vihdzp) [reply CombinatorialGames/Surreal/HahnSeries/Basic.lean]: Still no. I get a "Dependent elimination failed" error.

Comment (plp127) [reply CombinatorialGames/Surreal/HahnSeries/Basic.lean]: that's so weird

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean (hunk 2 above)
Comment (plp127) [reply CombinatorialGames/Surreal/HahnSeries/Basic.lean:625]: Sounds like possibly a bug in `simps`

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean [hunk 4]
```diff
@@ -530,4 +540,194 @@ theorem term_eq_zero {x : SurrealHahnSeries} {i : Ordinal} : x.term i = 0 ↔ x.
...
+theorem exp_coe (s : TermSeq) (i) : exp s i = s.exp ⟨i, by simpa using i.2⟩ := by
+  change _ = (((RelIso.subrel (· < ·) (by simp)).trans <| relIso s) i).1
+  congr
+  subsingleton
+
+theorem coeffIdx_coe_of_lt {s : TermSeq} {i} (h : i < s.length) :
+    coeffIdx s i = s.coeff ⟨i, h⟩ := by
+  rw [coeffIdx_of_lt (by simpa), exp_coe, coeff_coe]
+
+theorem coeffIdx_coe_of_le {s : TermSeq} {i} (h : s.length ≤ i) : coeffIdx s i = 0 :=
```
Comment (plp127) [inline CombinatorialGames/Surreal/HahnSeries/Basic.lean:671]: Can this be `_of_ge` instead

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean [hunk 5]
```diff
@@ -530,4 +540,194 @@ theorem term_eq_zero {x : SurrealHahnSeries} {i : Ordinal} : x.term i = 0 ↔ x.
...
+    coeffIdx s i = if h : i < s.length then s.coeff ⟨i, h⟩ else 0 := by
+  split_ifs with h
+  · exact coeffIdx_coe_of_lt h
+  · exact coeffIdx_coe_of_le (le_of_not_gt h)
+
+theorem term_coe_of_lt {s : TermSeq} {i} (h : i < s.length) :
+    term s i = s.coeff ⟨i, h⟩ * ω^ s.exp ⟨i, h⟩ := by
+  rw [term_of_lt (by simpa), coeffIdx_coe_of_lt, exp_coe]
+
+theorem term_coe_of_le {s : TermSeq} {i} (h : s.length ≤ i) : term s i = 0 :=
```
Comment (plp127) [inline CombinatorialGames/Surreal/HahnSeries/Basic.lean:685]: Same here, use `_of_ge` to match the `_of_lt` theorem.

File: CombinatorialGames/Surreal/HahnSeries/Basic.lean [hunk 6]
```diff
@@ -530,4 +540,194 @@ theorem term_eq_zero {x : SurrealHahnSeries} {i : Ordinal} : x.term i = 0 ↔ x.
...
+@[simp]
+theorem coe_inj {x y : TermSeq} : (x : SurrealHahnSeries) = y ↔ x = y :=
+  surrealHahnSeriesEquiv.apply_eq_iff_eq
+
+@[simp]
+theorem ofSurrealHahnSeries_inj {x y : SurrealHahnSeries} :
+    ofSurrealHahnSeries x = ofSurrealHahnSeries y ↔ x = y :=
+  surrealHahnSeriesEquiv.symm.apply_eq_iff_eq
+
+end TermSeq
```
Comment (plp127) [inline CombinatorialGames/Surreal/HahnSeries/Basic.lean:732]:
```suggestion
end TermSeq

```

Comment (vihdzp) [reply CombinatorialGames/Surreal/HahnSeries/Basic.lean:739]: I prefer to put it without the space. Is there some general guideline here?
